US08183271B2
Methyl 4-(7-cyano-3-formylheptyl)benzoate
A solution of 2.23 g (7.71 mmol) of methyl 4-(7-cyano-3-hydroxymethylheptyl)benzoate in 100 ml of dichloromethane is mixed with 1.99 g (9.26 mmol) of pyridinium chlorochromate (PCC) and stirred at room temperature for 6 hours. After conversion is complete, the solvent is concentrated to dryness in vacuo. The resulting residue is purified by flash chromatography on silica gel (mobile phase: cyclohexane/ethyl acetate 10:1→4:1). 1.50 g (9.09 mmol, 68% of theory) of an oil are obtained.

reactant | methyl 4-(7-cyano-3-hydroxymethylheptyl)benzoate | 7.71 mmol, 2.23 g | C(#N)CCCCC(CCC1=CC=C(C(=O)OC)C=C1)CO | C17H23NO3
reactant | pyridinium chlorochromate | 9.26 mmol, 1.99 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | Methyl 4-(7-cyano-3-formylheptyl)benzoate | C(#N)CCCCC(CCC1=CC=C(C(=O)OC)C=C1)C=O | C17H21NO3
